US07517996B2
(Step 5) Synthesis of 3-(4-(2-chloroethyl)phenyl)isoxazole-4-carboxylic acid
Methyl 3-(4-(2-chloroethyl)phenyl)isoxazole-4-carboxylate (1.46 g, 5.49 mmol) was dissolved in THF-water (2:1, 30 ml), lithium hydroxide monohydrate (922 mg, 21.97 mmol) was added, and the mixture was stirred at room temperature for 6 hours. THF was evaporated under reduced pressure, 2N hydrochloric acid was added to weak-acidify the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.38 g, 100%).

reactant | Methyl 3-(4-(2-chloroethyl)phenyl)isoxazole-4-carboxylate | 5.49 mmol, 1.46 g | ClCCC1=CC=C(C=C1)C1=NOC=C1C(=O)OC | C13H12ClNO3
reactant | lithium hydroxide monohydrate | 21.97 mmol, 922 mg | O.[OH-].[Li+]
solvent | THF water | 30 ml | C1CCOC1.O
product | 3-(4-(2-chloroethyl)phenyl)isoxazole-4-carboxylic acid | 1.38 g, 100% | ClCCC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C12H10ClNO3
